US07947683B2
2,2-dimethyl-4-pentenohydrazide
To a solution of methyl 2,2-dimethyl-4-pentenoate (1 g) in MeOH (2 ml) was added hydrazine monohydrate (2.7 ml). The solution was heated in a close microwave vial at 60° C. for 12 h. Volatiles were evaporated in vacuo to give 1 g of the title compound as a yellow pale foam, which was used without further purification.

reactant | methyl 2,2-dimethyl-4-pentenoate | 1 g | CC(C(=O)OC)(CC=C)C | C8H14O2
reactant | hydrazine monohydrate | 2.7 ml | O.NN
solvent | MeOH | 2 ml | CO | CH4O
product | 2,2-dimethyl-4-pentenohydrazide | 1 g | CC(C(=O)NN)(CC=C)C | C7H14N2O
